Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel awful"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: ___ hx EtOH use disorder with hx complicated withdrawal, 
unspecified mood disorder, Hep C, who presented to our ED in 
diabetic ketoacidosis, expressing suicidal ideation having 
discontinued his insulin regimen.

In brief, he was found down by police in ___ and 
brought in to ___, who has evaluated him at 
least 5 times since ___ for alcohol intoxication and 
withdrawal. He was transferred to ___ from ___ 
___ for further management of DKA and suicidal ideation. He 
reported to the ED that he was found down in the middle of the 
road because he wanted to be hit by a car after impulsively 
deciding to kill himself upon becoming suddenly homeless.

ED COURSE: required no chemical or physical restraints. Required 
130mg of IV Diazepam (26mg lorazepam equivalent) for alcohol 
withdrawal over the course of 14 hours. Was on insulin GTT, 
discontinued at 1500. Subsequently received 38 units of insulin 
SC. Received 500mg Thiamine, 4mg Ondansetron, ongoing 20 mEq KCl 
in ___ IVF. 4gm MgSO4.

On arrival to the unit, he was showing signs and complaining of 
symptoms of alcohol withdrawal, including diaphoresis, fever, 
nausea, headache, anxiety, tremor. I contacted ___ who 
assessed Mr. ___ and agreed that he should be transferred to 
a medical unit for more intensive monitoring of his severe 
alcohol withdrawal. Because of the urgency of the medical 
situation and his initial clinical status, further history 
regarding his psychiatric presentation was deferred.

PSYCHIATRIC ROS: The patient endorses symptoms of depression 
including depressed mood, fatigue/loss of energy, anhedonia, 
thoughts of death/SI, sleep disturbance including insomnia, loss 
of appetite/weight changes, poor concentration, psychomotor 
retardation.  The patient denies symptoms of mania such as 
distractibility, erratic behavior, grandiosity, flight of ideas, 
increased activity, decreased need for sleep, or 
talkativeness/pressured speech.  The patient also denies 
psychotic symptoms such as auditory or visual hallucinations, 
paranoia, or delusions.

 
Past Medical History:
    1. Mood disorder, unspecified.
    2. Alcohol, cocaine, cannabis, benzodiazepine use disorder.
    3. Antisocial personality disorder.
    4. Insulin-dependent diabetes mellitus.
    5. Hypercholesterolemia.
    6. Hypertension.

 
Social History:
___
Family History:
Denies h/o mood disorders, psychotic disorders, suicides.

 
Physical Exam:
VS: T 100.1 BP 146 / 84 HR 76 RR 16 O2S 95
Gen: Uncomfortable and sweaty appearing
HEENT: Sclera anicteric.
CV: Regular rate, +S1/ S2, no murmurs/rubs/gallops. 
Chest: Clear to auscultation bilaterally
Abdomen: Soft, mildly tender, mildly distended
Ext: Swelling of L hand, tender to palpation.
 
Pertinent Results:
Notable for Phos 1.5. Initial lactate in ED >6, last lactate 
1.9. Last BMP WNL except for hyperglycemia to 271. AG closed. 
CBC on admission notable for mild leukocytosis with left shift, 
subsequent CBC with clear hemodilution and mild anemia to 38, 
absolute neutrophils remain elevated. CK, CK-MB, Trop all WNL.
 
Brief Hospital Course:
Upon arrival to Deaconess 4, he was febrile, diaphoretic,
tremulous, and reported nausea, anxiety, headache, malaise and a
history of resistant withdrawal and withdrawal seizures. I
informed ___ who agreed that he would require admission to
either the general medical floor or the MICU. He required 130mg
of diazepam in the emergency department, indicating severe
withdrawal. On arrival, I treated him with Lorazepam 2mg PO, 
Ondansetron 8mg
PO, Insulin SS, 20 mEq KCl in NS x 10L @ 100mL/hr, and PO Phos. 
I then started him on standing lorazepam 2mg PO Q3HR with 2mg PO 
PRN CIWA > 8 due to concern for severe withdrawal, high 
benzodiazepine requirement, and difficulty staffing 
institutional q1hr CIWA protocol for severe withdrawal.
This appeared to stabilize him, but ___ and myself both agreed
that he should still receive closer monitoring on a medical unit
at this time. Transfer was arranged.

Per the psychiatry evaluation in the ED, he is an imminent harm
to himself, having recently attempted suicide via both passive
(intentional insulin/medication nonadherence) and active (lying
down in the middle of the road) means. He is not safe for
discharge and should be held in the hospital on a ___ for
return to the inpatient psychiatric unit after he is medically
stabilized.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 28 Units Bedtime
Humalog 40 Units Breakfast
Humalog 40 Units Lunch
Humalog 40 Units Dinner
2. Benztropine Mesylate 2 mg PO QHS 
3. Haloperidol 10 mg PO QHS 
4. Lisinopril 10 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
20 mEq Potassium Chloride / 1000 mL NS Continuous at 100 mL/hr 
for 1000 mL
Benztropine Mesylate 2 mg PO/NG QHS
Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol
FoLIC Acid 1 mg PO/NG DAILY
Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol
Glucose Gel 15 g PO PRN hypoglycemia protocol
Haloperidol 10 mg PO QHS
Insulin SC (per Insulin Flowsheet) Sliding Scale & Fixed Dose
LORazepam 2 mg PO/NG Q2H:PRN CIWA > 8
Lisinopril 10 mg PO/NG DAILY
LORazepam 2 mg PO/NG Q3H
Multivitamins 1 TAB PO DAILY
Ondansetron 8 mg PO/NG ONCE Duration: 1 Dose
Phosphorus 500 mg PO/NG TID
Thiamine 100 mg PO/NG DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol Withdrawal
 
Discharge Condition:
Stable-Medically Sick
 
Discharge Instructions:
Recommendations for transfer:
1. Safety: 
A.  Patient may not leave AMA because remains on
[x] ___

B.  Observer status
[x] Recommend nursing 1:1 observer because: Recent suicide
attempt

2. Psychiatric management while on Med/Surg floor:
A.  Continue following psychiatric treatments:
- Haldol 10 mg PO qHS
- Cogentin 1 mg PO qHS

B.  Psychiatry follow-up on floor: 
[X] If further questions arise about psychiatric management on
the medical service, please consult the Psychiatric Consultation
Service by calling x7-PSYC during business hours tomorrow
morning.

3.  Disposition:
[X] When patient is medically stable, please prepare discharge
summary including any necessary follow up or appointments and
contact the floor case manager to facilitate transfer back to
Deac-4 psychiatric unit 
 
Followup Instructions:
___